US04608380
2-[3-[3-(Piperidinomethyl)phenoxy]propylamino]-4-quinolone
2-[3-[3-(Piperidinomethyl)phenoxy]propylamino]-4-ethoxyquinoline (liberated from the dimaleate (3.0 g)) was stirred under reflux in concentrated hydrochloric acid (30 ml) for 41/2 hours. The reaction mixture was cooled, reduced in volume by evaporation under reduced pressure, taken to pH 9 (aqueous NaHCO3), washed with ether, and extracted into chloroform (3×). The chloroform extracts were combined, dried (MgSO4), evaporated under reduced pressure and the resultant white oil was treated with hot ethylacetate to give the title compound (0.89 g), m.p. 171°-171.5° C. (recrystallised from methanol).

reactant | 2-[3-[3-(Piperidinomethyl)phenoxy]propylamino]-4-ethoxyquinoline | N1(CCCCC1)CC=1C=C(OCCCNC2=NC3=CC=CC=C3C(=C2)OCC)C=CC1 | C26H33N3O2
solvent | hydrochloric acid | 30 ml | Cl | ClH
product | 2-[3-[3-(Piperidinomethyl)phenoxy]propylamino]-4-quinolone | N1(CCCCC1)CC=1C=C(OCCCNC2=NC3=CC=CC=C3C(C2)=O)C=CC1 | C24H29N3O2
